US06936608B2
To a degassed solution of 2-bromo-1-fluoro-4-nitrobenzene (A. Groweiss, Org. Process Res. Dev., 2000, 4, 30-33) (6.44 g, 29.3 mmol), 4-tri-n-butylstannylpyridine (14.0 g, 38.0 mmol), lithium chloride (12.4 g, 293 mmol) and copper(I) iodide (0.56 g, 2.93 mmol) in N,N-dimethylacetamide (40 ml) was added tetrakis(triphenylphosphine)palladium(0) (1.69 g, 1.46 mmol) and the reaction heated at 80° C. for 18 h. After cooling to ambient temperature the solvent was evaporated and the residue was diluted with dichloromethane (800 ml) and the mixture stirred vigorously for 30 min then filtered. The organics were washed with water (500 ml) and brine (300 ml), dried (MgSO4), filtered and evaporated to give a black oil. The residue was purified by chromatography [silica gel, 20-50% EtOAc/isohexane (containing 1% methanol and 1% triethylamine)] to give 4-(2-fluoro-5-nitrophenyl)pyridine as an off-white solid (5.60 g, 88%): 1H NMR (360 MHz, CDCl3) δ 7.38 (1H, t, J 9 Hz), 7.50-7.53 (2H, m), 8.30-8.35 (1H, m), 8.41-8.44 (1H, m), 8.76-8.78 (2H, m).

reactant | 2-bromo-1-fluoro-4-nitrobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | 4-tri-n-butylstannylpyridine | 38.0 mmol, 14.0 g | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
reactant | lithium chloride | 293 mmol, 12.4 g | [Cl-].[Li+]
solvent | N,N-dimethylacetamide | 40 ml | CN(C(C)=O)C | C4H9NO
catalyst | copper(I) iodide | 2.93 mmol, 0.56 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.46 mmol, 1.69 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-fluoro-5-nitrophenyl)pyridine | 5.60 g, 88% | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NC=C1 | C11H7FN2O2
